US07432289B2
2-Amino-N-(4′-{[(cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)isonicotinamide was prepared from 5′-amino-N-(cyclopropylmethyl)-2′-methyl-1,1′-biphenyl-4-carboxamide and 2-aminoisonicotinic acid using method B. NMR; δH CDCl3 8.20,(1H, d), 7.93,(1H, s), 7.82,(2H, d), 7.60,(1H, d), 7.46,(1H, s), 7.39,(2H,d), 7.30-7.26,(2H, m), 6.96,(1H, s), 6.29,(1H, b), 4.67,(2H, s), 3.34,(2H, m), 2.24,(3H, s), 1.08,(1H, m), 0.59,(2H, m), 0.30,(2H, m). LCMS: retention time 2.75 min, MH+401.

reactant | 5′-amino-N-(cyclopropylmethyl)-2′-methyl-1,1′-biphenyl-4-carboxamide | NC=1C=CC(=C(C1)C1=CC=C(C=C1)C(=O)NCC1CC1)C | C18H20N2O
reactant | 2-aminoisonicotinic acid | NC=1C=C(C(=O)O)C=CN1 | C6H6N2O2
product | 2-Amino-N-(4′-{[(cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)isonicotinamide | NC=1C=C(C(=O)NC=2C=C(C(=CC2)C)C2=CC=C(C=C2)C(=O)NCC2CC2)C=CN1 | C24H24N4O2
